US06071903
Methyl 3-[(2-Tetrahydropyranyl)oxy]-2-[(4-methoxybenzenesulfonyl)-(2-nitro-4-chlorobenzyl)amino]propionate
To a mixture of 1.67 g (4.4 mmol) of (D,L) N-(4-methoxybenzenesulfonyl)-O-(2-tetrahydropyranyl) serine, methyl ester, 0.825 g, (4.4 mol) of 4-chloro-2-nitrobenzyl alcohol and 1.16 g (4.4 mmol) of triphenylphosphine in 4.5 ml of tetrahydrofuran was added dropwise a solution of 0.766 g (4.4 mmol) of diethyl azodicarboxylate in 1 ml of tetrahydrofuran. The mixture was stirred at room temperature overnight and the solvent removed under vacuum. The residue was triturated with diethyl ether, filtered and the filtrate passed through a thin pad of hydrous magnesium silicate. The pad was washed with ethyl acetate and the total filtrate concentrated to dryness under vacuum to give 4.54 g of solid. The solid was chromatographed on silica gel with hexane-ethyl acetate (55:45) as solvent. The fractions containing product were combined and the solvent removed to give 0.55 g of oily solid; Mass spectrum (ES) 543.1 (M+H).

reactant | N-(4-methoxybenzenesulfonyl)-O-(2-tetrahydropyranyl) serine, methyl ester | COC1=CC=C(C=C1)S(=O)(=O)N[C@@H](COC1OCCCC1)C(=O)OC | C16H23NO7S
reactant | 4-chloro-2-nitrobenzyl alcohol | 4.4 mol | ClC1=CC(=C(CO)C=C1)[N+](=O)[O-] | C7H6ClNO3
reactant | triphenylphosphine | 4.4 mmol, 1.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.4 mmol, 0.766 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | Methyl 3-[(2-Tetrahydropyranyl)oxy]-2-[(4-methoxybenzenesulfonyl)-(2-nitro-4-chlorobenzyl)amino]propionate | 4.54 g | O1C(CCCC1)OCC(C(=O)OC)N(CC1=C(C=C(C=C1)Cl)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)OC | C23H27ClN2O9S
